US07427612B2
1-{3-Fluoro-4-[4-(5-imidazol-1-yl-2-morpholin-4-yl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone
In a tube were added successively 1-{4-[4-(5-Bromo-2-morpholin-4-yl-benzoyl)-piperazin-1-yl]-3-fluoro-phenyl}-ethanone (example BJ, 0.05 g, 0.1 mmol), imidazole (8.4 mg, 0.12 mmol), cesium carbonate (70 mg, 0.21 mmol), CuI (4 mg, 0.02 mmol), 1,10-phenanthroline (7.3 mg, 0.04 mmol) and dioxane (0.2 ml). The mixture was heated under argon at 120° C. for 12 hours. The reaction mixture was cooled to room temperature and quenched with water/ethyl acetate. The aqueous layer was extracted twice with ethylacetate. The organic layers were combined, dried over Na2SO4, filtered and the solvent was removed in vacuo. The crude oil was chromatographed over silicagel: eluent: CH2Cl2/methanol: 0-5% to provide the title compound as a brown solid (20 mg, 40%), MS (m/e): 478.4 (M+H, 100%)

reactant | 1-{4-[4-(5-Bromo-2-morpholin-4-yl-benzoyl)-piperazin-1-yl]-3-fluoro-phenyl}-ethanone | 0.1 mmol, 0.05 g | BrC=1C=CC(=C(C(=O)N2CCN(CC2)C2=C(C=C(C=C2)C(C)=O)F)C1)N1CCOCC1 | C23H25BrFN3O3
reactant | imidazole | 0.12 mmol, 8.4 mg | N1C=NC=C1 | C3H4N2
reactant | cesium carbonate | 0.21 mmol, 70 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 0.04 mmol, 7.3 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
catalyst | CuI | 0.02 mmol, 4 mg | [Cu]I
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 1-{3-Fluoro-4-[4-(5-imidazol-1-yl-2-morpholin-4-yl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone | 20 mg, 40% | FC=1C=C(C=CC1N1CCN(CC1)C(C1=C(C=CC(=C1)N1C=NC=C1)N1CCOCC1)=O)C(C)=O | C26H28FN5O3
